US05965553
3-tert-Butyldiphenylsilyloxy-2,2-dimethylpropanal
3-Hydroxy-2,2-dimethylpropanal (5.1 g, 50 mmol) and tert-butyl-diphenylsilyl chloride (15.10 g, 55 mmol) were dissolved in dimethylformamide (50 ml). Imidazole (3.74 g, 55 mmol) was added in one portion. After stirring for 18 hours the mixture was hydrolyzed with water and extracted several times with ether. The combined organic layers were dried with MgSO4. The filtrate was concentrated under reduced pressure, and the residue was purified by flash chromatography (hexane/ethyl acetate 15:1) to give the title compound (9.55 g, 56%) as a colorless oil.

reactant | 3-Hydroxy-2,2-dimethylpropanal | 50 mmol, 5.1 g | OCC(C=O)(C)C | C5H10O2
reactant | tert-butyl-diphenylsilyl chloride | 55 mmol, 15.10 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | Imidazole | 55 mmol, 3.74 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-tert-Butyldiphenylsilyloxy-2,2-dimethylpropanal | 9.55 g, 56% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(C=O)(C)C | C21H28O2Si
